US07807708B2
In a 250 mL three-necked flask under a nitrogen atmosphere, equipped with a magnetic stirrer, 15 g (58.5 mmol) of (4-bromo-2-tert-butylphenyl)ethylamine are dissolved in 150 mL of dichloromethane. 8.9 g (87.8 mmol, 12.2 mL) of triethylamine and 0.72 g (5.9 mmol) of 4-dimethylaminopyridine are added. 11.5 g (146 mmol, 2.5 mL) of acetyl chloride are added dropwise and the reaction medium is stirred for 1 hour at room temperature. The reaction medium is poured into 250 mL of water and extracted twice with dichloromethane. The organic phases obtained are combined and washed with water, dried over anhydrous magnesium sulfate, filtered and evaporated to give a blackish oil. This oil is purified by chromatography on silica (eluent: 80/20 heptane/ethyl acetate) to give 15 g (yield=86%) of N-(4-bromo-2-tert-butylphenyl)-N-ethylacetamide in the form of an orange oil.

reactant | (4-bromo-2-tert-butylphenyl)ethylamine | 58.5 mmol, 15 g | BrC1=CC(=C(C=C1)CCN)C(C)(C)C | C12H18BrN
reactant | triethylamine | 87.8 mmol, 12.2 mL, 8.9 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 146 mmol, 2.5 mL, 11.5 g | C(C)(=O)Cl | C2H3ClO
reactant | water | 250 mL | O | H2O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5.9 mmol, 0.72 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(4-bromo-2-tert-butylphenyl)-N-ethylacetamide | 15 g, yield=86% | BrC1=CC(=C(C=C1)N(C(C)=O)CC)C(C)(C)C | C14H20BrNO
